US05149357
This compound is prepared in a manner analogous to that of Example 1, Step G, using equimolar amounts of 6-chloro-2-(4,6-dimethoxypyrimidin-2-ylthio)benzoic acid, 4-nitrophenol, and dicyclohexylcarbodiimide in methylene chloride, yielding 4-nitrophenyl 6-chloro-2-(4,6-dimethoxypyrimidin-2-ylthio)benzoate.

reactant | 6-chloro-2-(4,6-dimethoxypyrimidin-2-ylthio)benzoic acid | ClC1=CC=CC(=C1C(=O)O)SC1=NC(=CC(=N1)OC)OC | C13H11ClN2O4S
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-nitrophenyl 6-chloro-2-(4,6-dimethoxypyrimidin-2-ylthio)benzoate | ClC1=CC=CC(=C1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])SC1=NC(=CC(=N1)OC)OC | C19H14ClN3O6S
